US06784185B2
4-[(5-Acetyl-2-propoxybenzoyl)amino]-5-ethyl-1H-pyrazole-3-Carboxamide
Oxalyl chloride (5.45 ml, 46.4 mmol) was added to a solution of 5-acetyl-2-n-propoxy-benzoic acid (WO 9312095) (11.1 g, 30.9 mmol) in N,N-dimethylformamide (0.1 ml) and dichloromethane (200 ml) under nitrogen at room temperature. Once addition was complete the solution was stirred for 1 hour. The solution was concentrated under reduced pressure and azeotroped with toluene, and the intermediate acid chloride was dissolved in dichloromethane (200 ml). Triethylamine (10.4 ml, 46.4 mmol) was added followed by 4-amino-3-ethyl-1H-pyrazole-5-Carboxamide (WO 9849166) (7.7 g, 30.9 mmol) and the reaction was stirred at room temperature for 16 hours. The mixture was washed with 1N hydrochloric acid (2×100 ml), 10% sodium bicarbonate solution (100 ml) and brine (100 ml), dried over Na2SO4 and the solvent was removed under reduced pressure. The residue was recrystallised from acetonitrile to afford the title compound as a crystalline solid, 14.8 g.

reactant | Oxalyl chloride | 46.4 mmol, 5.45 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-acetyl-2-n-propoxy-benzoic acid | 30.9 mmol, 11.1 g | C(C)(=O)C=1C=CC(=C(C(=O)O)C1)OCCC | C12H14O4
reactant | Triethylamine | 46.4 mmol, 10.4 ml | C(C)N(CC)CC | C6H15N
reactant | 4-amino-3-ethyl-1H-pyrazole-5-Carboxamide | 30.9 mmol, 7.7 g | NC=1C(=NNC1C(=O)N)CC | C6H10N4O
solvent | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 4-[(5-Acetyl-2-propoxybenzoyl)amino]-5-ethyl-1H-pyrazole-3-Carboxamide | C(C)(=O)C=1C=CC(=C(C(=O)NC=2C(=NNC2CC)C(=O)N)C1)OCCC | C18H22N4O4
